US05521170
To a solution of 3-methoxy-4-nitrobenzoic acid (800 mg) and catalytic amount of N,N-dimethylformamide in dichloromethane (8 ml) was added oxalyl chloride (0.7 ml) at 0° C. and the solution was stirred at ambient temperature for 30 minutes followed by the removal of solvents to give a crude acid chloride. To a solution of 1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (658 mg) and triethylamine (821 mg) in dichloromethane (4 ml) was added a solution of the above acid chloride in dichloromethane (4 ml) at ambient temperature and the mixture was stirred at ambient temperature for 1 hour. The resultant mixture was filtered and the solid was washed with water and diethyl ether to give 5-(3-methoxy-4-nitrobenzoyl)-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (1.29 g) as a colorless prisms.

reactant | 3-methoxy-4-nitrobenzoic acid | 800 mg | COC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C8H7NO5
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.7 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 658 mg | N1C(CCNC2=C1C=CC=C2)=O | C9H10N2O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | triethylamine | 821 mg | C(C)N(CC)CC | C6H15N
product | 5-(3-methoxy-4-nitrobenzoyl)-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 1.29 g | COC=1C=C(C(=O)N2CCC(NC3=C2C=CC=C3)=O)C=CC1[N+](=O)[O-] | C17H15N3O5
